US07361658B2
110 μl of a formaldehyde aqueous solution (35%) and 76 μl of acetic acid were added to 2 ml of 1.2-dichloroethane solution of 79 mg of ethyl 1-[3-chloro-5-({4-(4-chlorothiophen-2-yl)-5-[(cyclobutylamino)methyl]thiazol-2-yl}carbamoyl)-2-pyridyl]piperidine-4-carboxylate, and the mixture was stirred at room temperature for 1 hour. Subsequently, 45 mg of NaBH(OAc)3 was added, and the solution was stirred at room temperature for 1 hour. Chloroform was added to the reaction solution, and the organic layer was washed with a saturated sodium hydrogencarbonate aqueous solution, with water and with brine, and then dried over sodium sulfate. After the solvent was distilled off, the residue was purified by silica gel column chromatography (hexane:EtOAc=4:1 to 2:1) to obtain 58 mg of ethyl 1-{3-chloro-5-[(4-(4-chlorothiophen-2-yl)-5-{[cyclobutyl(methyl)amino]methyl}thiazol-2-yl)carbamoyl]-2-pyridyl}piperidine-4-carboxylate.

reactant | formaldehyde | 110 μl | C=O | CH2O
reactant | acetic acid | 76 μl | C(C)(=O)O | C2H4O2
reactant | ethyl 1-[3-chloro-5-({4-(4-chlorothiophen-2-yl)-5-[(cyclobutylamino)methyl]thiazol-2-yl}carbamoyl)-2-pyridyl]piperidine-4-carboxylate | 79 mg | ClC=1C(=NC=C(C1)C(NC=1SC(=C(N1)C=1SC=C(C1)Cl)CNC1CCC1)=O)N1CCC(CC1)C(=O)OCC | C26H29Cl2N5O3S2
reactant | NaBH(OAc)3 | 45 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | 1.2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
product | ethyl 1-{3-chloro-5-[(4-(4-chlorothiophen-2-yl)-5-{[cyclobutyl(methyl)amino]methyl}thiazol-2-yl)carbamoyl]-2-pyridyl}piperidine-4-carboxylate | 58 mg | ClC=1C(=NC=C(C1)C(NC=1SC(=C(N1)C=1SC=C(C1)Cl)CN(C)C1CCC1)=O)N1CCC(CC1)C(=O)OCC | C27H31Cl2N5O3S2
